US04788186
8-chloro-3-methyl-6-phenyl-1,2,4-triazolo [3,4-a]phthalazine
A mixture of 1,6-dichloro-4-phenyl-phthalazine (8 g), acetyl hydrazine (4.4 g) and butanol (100 ml) is refluxed for 25 hours. Then the solvent is evaporated off and the residue is washed carefully with a small amount of water and crystallized from ethanol yielding 6 g of the compound of the title. M.p. 236°-38° C.

reactant | 1,6-dichloro-4-phenyl-phthalazine | 8 g | ClC1=NN=C(C2=CC(=CC=C12)Cl)C1=CC=CC=C1 | C14H8Cl2N2
reactant | acetyl hydrazine | 4.4 g | C(C)(=O)NN | C2H6N2O
solvent | butanol | 100 ml | C(CCC)O | C4H10O
product | 8-chloro-3-methyl-6-phenyl-1,2,4-triazolo [3,4-a]phthalazine | ClC=1C=C2C(=NN3C(C2=CC1)=NN=C3C)C3=CC=CC=C3 | C16H11ClN4
